US05055458
A solution of 9-[1-(t-butyldimethylsilyloxy) -3-(diethoxyphosphorylmethoxy)prop-2-oxy]-6-chloro-2-formamidopurine (100mg, 0.18 mmol) in tetrahydrofuran (5 ml) was treated. with tetrabutylammonium fluoride (60mg, 0.18 mmol) and the solution stirred for 4 h at 20° C. The solvent was reduced in vacuo and the residue partitioned between saturated sodium hydrogen carbonate and dichloromethane. The dichloromethane was separated and dried (MgSO4) and the solvent evaporated in vacuo. The residue was chromatographed on silica, eluting with chloroform-methanol 20:1, affording 6-chloro-9-[1-(diethoxyphosphorylmethoxy) -3-hydroxyprop-2-oxy]2-formamidopurine (30mg, 37%) as a clear oil. νmax (film) 3400, 3250, 1700, 1610, 1570 and 1500 cm-1 ; δH (CDCl3) 1.37 (6H, t, J7.1 Hz, 2×CH2CH3), 3.84-3.96 (7H, m, CH2OH+CH2OCH2P), 4.21 (4H, m, 2×CH2CH3), 4.57 (1H, m, CHON), 8.37 (1H, s, H-8), 8.67 (1H, d, J10.1 Hz, D2O exchangeable, NH), 9.50 (1H, d, J10.1 Hz, CHO); m/z (FAB+ve Ion) 438 (MH+).

reactant | 9-[1-(t-butyldimethylsilyloxy) -3-(diethoxyphosphorylmethoxy)prop-2-oxy]-6-chloro-2-formamidopurine | 0.18 mmol, 100mg | [Si](C)(C)(C(C)(C)C)OCC(COCP(=O)(OCC)OCC)ON1C2=NC(=NC(=C2N=C1)Cl)NC=O | C20H35ClN5O7PSi
reactant | tetrabutylammonium fluoride | 0.18 mmol, 60mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 6-chloro-9-[1-(diethoxyphosphorylmethoxy) -3-hydroxyprop-2-oxy]2-formamidopurine | 30mg, 37% | ClC1=C2N=CN(C2=NC(=N1)NC=O)OC(COCP(=O)(OCC)OCC)CO | C14H21ClN5O7P
